US06919331B2
3-[5-Carbamimidoyl-1-(3-methyl-butyl)-1H-benzoimidazol-2-ylmethyl]-3H-benzotriazole-5-carboxamidine was prepared as described for {3-[5-carbamimidoyl-1-(3-methyl-butyl)-1H-benzoimidazol-2-ylmethyl]-2-oxo-2,3-dihydro-benzoimidazol-1-yl}-acetic acid tert-butyl ester using N-Hydroxy-3-[5-(N-hydroxycarbamimidoyl)-1-(3-methyl-butyl)-1H-benzoimidazol-2-ylmethyl]-3H-benzotriazole-5-carboxamidine.

reactant | {3-[5-carbamimidoyl-1-(3-methyl-butyl)-1H-benzoimidazol-2-ylmethyl]-2-oxo-2,3-dihydro-benzoimidazol-1-yl}-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C(N(C2=C1C=CC=C2)CC2=NC1=C(N2CCC(C)C)C=CC(=C1)C(N)=N)=O)=O | C27H34N6O3
reactant | N-Hydroxy-3-[5-(N-hydroxycarbamimidoyl)-1-(3-methyl-butyl)-1H-benzoimidazol-2-ylmethyl]-3H-benzotriazole-5-carboxamidine | ONC(=N)C1=CC2=C(N=NN2CC2=NC3=C(N2CCC(C)C)C=CC(=C3)C(NO)=N)C=C1 | C21H25N9O2
product | 3-[5-Carbamimidoyl-1-(3-methyl-butyl)-1H-benzoimidazol-2-ylmethyl]-3H-benzotriazole-5-carboxamidine | C(N)(=N)C1=CC2=C(N(C(=N2)CN2N=NC3=C2C=C(C=C3)C(=N)N)CCC(C)C)C=C1 | C21H25N9
